US05055585
In 12.5 ml of dichloromethane, 4.4 g (20 mmol) of 5-(1-hydroxybutyl)-3-phenylisoxazole were dissolved. While the solution was being stirred, 35.2 g (60 mmol) of a 12.7% aqueous solution of sodium hypochlorite were added dropwise to the solution. Next, a liquid mixture which had been obtained by adding 0.48 g (6.1 mmol) of pyridine to 1.0 ml of 6N hydrochloric acid) was added dropwise over 1 hour and the reaction temperature was maintained at 20° C. After completion of the reaction, the organic layer was collected and was washed successively with a 5% aqueous solution of sodium hydrogensulfite, water and 1N hydrochloric acid. The organic layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was then recrystallized from ethanol, whereby the target compound, namely, 5-butyryl-3-phenylisoxazole was obtained as crystals.

reactant | 5-(1-hydroxybutyl)-3-phenylisoxazole | 20 mmol, 4.4 g | OC(CCC)C1=CC(=NO1)C1=CC=CC=C1 | C13H15NO2
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | pyridine | 6.1 mmol, 0.48 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 6N, 1.0 ml | Cl | ClH
solvent | dichloromethane | 12.5 ml | ClCCl | CH2Cl2
product | 5-butyryl-3-phenylisoxazole | C(CCC)(=O)C1=CC(=NO1)C1=CC=CC=C1 | C13H13NO2
